US08372845B2
Step 1: 1-[(3-{2-[(E)-3,5-Diamino-6-chloro-pyrazine-2-carbonylimino]-1,3,8-triaza-spiro[4.5]decane-8-carbonyl}-benzenesulfonylamino)-methyl]-cyclobutanecarboxylic acid tert-butyl ester
A solution of 3-[(1-tert-butoxycarbonyl-cyclobutylmethyl)-sulfamoyl]-benzoic acid (Int. AC) (1.37 g, 3.71 mmol) in DMF (20 ml) was treated with N-methylmorpholine (1.631 ml, 14.83 mmol) and HATU (1.41 g, 3.71 mmol) followed by 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide (1.27 g, 3.89 mmol). The reaction mixture was stirred at RT for 2 h and then partitioned between EtOAc and water. The organic portion was separated and washed with 0.5M aqueous 1,5,7-triazabicyclo[4.4.0]dec-5-ene solution, brine, dried over MgSO4 and concentrated in vacuo. Purification of the resulting oil by chromatography on silica eluting with 5-8% MeOH in iso-hexane afforded the title compound; LC-MS Rt 1.03 mins; 676.4 [M+H]+, Method 2minLC_v003.

reactant | 3-[(1-tert-butoxycarbonyl-cyclobutylmethyl)-sulfamoyl]-benzoic acid | 3.71 mmol, 1.37 g | C(C)(C)(C)OC(=O)C1(CCC1)CNS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C17H23NO6S
reactant | N-methylmorpholine | 14.83 mmol, 1.631 ml | CN1CCOCC1 | C5H11NO
reactant | HATU | 3.71 mmol, 1.41 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide | 3.89 mmol, 1.27 g | N1\C(\NCC12CCNCC2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl | C12H17ClN8O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-[(3-{2-[(E)-3,5-Diamino-6-chloro-pyrazine-2-carbonylimino]-1,3,8-triaza-spiro[4.5]decane-8-carbonyl}-benzenesulfonylamino)-methyl]-cyclobutanecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1(CCC1)CNS(=O)(=O)C1=CC(=CC=C1)C(=O)N1CCC2(CN\C(\N2)=N/C(=O)C2=NC(=C(N=C2N)N)Cl)CC1 | C29H38ClN9O6S
